US05364866
A mixture of 1-[4-hydroxy-3-(methylmercapto)phenyl]ethanone (5.4 g; 0.03 mole), K2CO3 (4.2 g), 1,3-dibromopropane (8 g, 0.039 mole) in acetonitrile (150 ml) was heated at reflux for 3 hours and stirred at room temperature overnight. Acetonitrile was removed at reduced pressure and the residue was extracted into dichloromethane (250 ml). Insolubles were filtered off. The dichloromethane solution was concentrated. The crude product was purified on a silica gel column (SiO2, 100 g; eluted with 3:2 hexane:dichloromethane, 1.6 l). The compound crystallized upon concentration, and the product (3.5 g, 39%) was recrystallized from ethanol (40 ml) to yield 1-[4-(3-bromopropoxy)-3-(methylmercapto)phenyl]ethanone as white needles, 2.0 g; m.p.=120°-122° C.

reactant | 1-[4-hydroxy-3-(methylmercapto)phenyl]ethanone | 0.03 mole, 5.4 g | OC1=C(C=C(C=C1)C(C)=O)SC | C9H10O2S
reactant | K2CO3 | 4.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 0.039 mole, 8 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-[4-(3-bromopropoxy)-3-(methylmercapto)phenyl]ethanone | BrCCCOC1=C(C=C(C=C1)C(C)=O)SC | C12H15BrO2S
